US04130652
12.15 g (0.05 mole) of 1-phenyl-2-(2-piperidinylidene)-1,3-butanedione are introduced into a prepared solution of 3.5 g of sodium in 120 ml of ethanol. The reaction mixture is then refluxed for 40 minutes. After cooling, it is neutralised with glacial acetic acid, and filtered off from the sodium acetate. The filtrate is concentrated in the rotary evaporator, and the residue is dissolved in methylene chloride. The solution is repeatedly extracted with water; the organic phase is dried over sodium sulphate, and the solvent is evaporated off in the rotary evaporator. The oily residue is crystallised from ether/hexane to yield 2-(2-piperidinylidene)-acetophenone, m.p. 59°-60°.

reactant | 1-phenyl-2-(2-piperidinylidene)-1,3-butanedione | 0.05 mole, 12.15 g | C1(=CC=CC=C1)C(C(C(C)=O)=C1NCCCC1)=O | C15H17NO2
reactant | sodium | 3.5 g | [Na] | Na
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-(2-piperidinylidene)-acetophenone | N1C(CCCC1)=CC(=O)C1=CC=CC=C1 | C13H15NO
